datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)[NH:10]CC(O)c1cccc(N)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)[NH+:10](CC(O)c1cccc(N)c1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CN(C)c1ccc(/C=N/[O:21][H:20])cc1.COc1cc[n:10]c2ccccc12>>CN(C)c1ccc(/C=N/[O-:21])cc1.COc1cc[n+:10]([H:20])c2ccccc12 10=20;20,21=21",
"CC(Cc1ccc2c(c1)OCO2)[NH2:10].CCCCCC/[NH+]=C/c1c(C)c[n+:21]([H:20])c(C)c1O>>CC(Cc1ccc2c(c1)OCO2)[NH2+:10][H:20].CCCCCC/[NH+]=C/c1c(C)c[n:21]c(C)c1O 10=20;20,21=21",
"CSc1ccc([O:21][H:20])cc1.NC(=O)CC(C(N)=O)[NH-:10]>>CSc1ccc([O-:21])cc1.NC(=O)CC(C(N)=O)[NH:10][H:20] 10=20;20,21=21",
"C[NH+](C)c1ccc([N+:21](C)(C)[H:20])cc1.O=C(c1ccc[nH+]c1)[O-:10]>>C[NH+](C)c1ccc([N:21](C)C)cc1.O=C(c1ccc[nH+]c1)[O:10][H:20] 10=20;20,21=21",
"Cc1ccccc1C(O)C(C(=O)[O-:10])c1ccc(-c2ccccc2)cc1.OC(=C1c2ccccc2-c2ccccc21)[O:21][H:20]>>Cc1ccccc1C(O)C(C(=O)[O:10][H:20])c1ccc(-c2ccccc2)cc1.OC(=C1c2ccccc2-c2ccccc21)[O-:21] 10=20;20,21=21",
"CCC[NH+:21](N)[H:20].O=C1[C@H]2CCC[C@H]2C(=O)[N-:10]1>>CCC[NH:21]N.O=C1[C@H]2CCC[C@H]2C(=O)[N:10]1[H:20] 10=20;20,21=21",
"C1=C[N:10]2CCC1CC2.C[Si](C)(C[NH2+:21][H:20])c1ccccc1>>C1=C[N+:10]2([H:20])CCC1CC2.C[Si](C)(C[NH2:21])c1ccccc1 10=20;20,21=21",
"CCOC(=O)c1ccc[n+:21]([H:20])c1.O=C(c1cc([N+](=O)[O-])ccc1F)[O-:10]>>CCOC(=O)c1ccc[n:21]c1.O=C(c1cc([N+](=O)[O-])ccc1F)[O:10][H:20] 10=20;20,21=21",
"Cc1ccc2c(c1)C(CC[NH3+])C[NH:10]2.O=[N+]([O-])c1cc2ccccc2cc1[NH2+:21][H:20]>>Cc1ccc2c(c1)C(CC[NH3+])C[NH+:10]2[H:20].O=[N+]([O-])c1cc2ccccc2cc1[NH2:21] 10=20;20,21=21",
"CCC[NH2+]CC[NH+:21](CCC)[H:20].CCN1N=C(c2ccccc2)S/C1=[N:10]/CC>>CCC[NH2+]CC[NH:21]CCC.CCN1N=C(c2ccccc2)S/C1=[N+:10](/CC)[H:20] 10=20;20,21=21",
"CN[C@H]1C[C@]1(C)[NH+:21](C)[H:20].O=C([O-])CCCCC[N:10]1CCCCC1>>CN[C@H]1C[C@]1(C)[NH:21]C.O=C([O-])CCCCC[N+:10]1([H:20])CCCCC1 10=20;20,21=21",
"C[N:10](C)C([O-])O.Cc1ccc(-c2c[n+:21]([H:20])c(-c3ccc(Br)cc3)o2)cc1>>C[N+:10](C)(C([O-])O)[H:20].Cc1ccc(-c2c[n:21]c(-c3ccc(Br)cc3)o2)cc1 10=20;20,21=21",
"C=Cc1cccc[n:10]1.CC(=O)Nc1cccc2c1cc1ccccc1[n+:21]2[H:20]>>C=Cc1cccc[n+:10]1[H:20].CC(=O)Nc1cccc2c1cc1ccccc1[n:21]2 10=20;20,21=21",
"COc1ccccc1C(=O)N[O:21][H:20].[NH3+]CCC(=O)NC(Cc1c[nH]c[nH+]1)C(=O)[O-:10]>>COc1ccccc1C(=O)N[O-:21].[NH3+]CCC(=O)NC(Cc1c[nH]c[nH+]1)C(=O)[O:10][H:20] 10=20;20,21=21",
"Cc1cc(C)c(C(=O)C(=O)[O:21][H:20])c(C)c1.NC(=O)Cc1ccc(C(=O)[O-:10])cc1>>Cc1cc(C)c(C(=O)C(=O)[O-:21])c(C)c1.NC(=O)Cc1ccc(C(=O)[O:10][H:20])cc1 10=20;20,21=21",
"C[NH:10]c1ccccc1.Cc1cnc2c(c1)c(C)c(C)c1cc(C)c[n+:21]([H:20])c12>>C[NH+:10](c1ccccc1)[H:20].Cc1cnc2c(c1)c(C)c(C)c1cc(C)c[n:21]c12 10=20;20,21=21",
"COc1ccc([O-:10])c(/N=N/c2nc(C)cs2)c1.Oc1ccc2c(c1)[NH+:21]([H:20])c1ccccc1N2>>COc1ccc([O:10][H:20])c(/N=N/c2nc(C)cs2)c1.Oc1ccc2c(c1)[NH:21]c1ccccc1N2 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].N[C@H]1C[C@H]2CCCC[C@@H]2C[C@@H]1[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.N[C@H]1C[C@H]2CCCC[C@@H]2C[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"CC(=O)N(c1ccccc1)[O:21][H:20].C[C@@H]1CCC[C@H]([N:10](C)C)C1>>CC(=O)N(c1ccccc1)[O-:21].C[C@@H]1CCC[C@H]([N+:10](C)(C)[H:20])C1 10=20;20,21=21",
"Cc1cccc(S(=O)(=O)[O:21][H:20])c1.O=P([O-])(O)C([NH2+]Cc1ccc[n:10]c1)c1ccccc1O>>Cc1cccc(S(=O)(=O)[O-:21])c1.O=P([O-])(O)C([NH2+]Cc1ccc[n+:10]([H:20])c1)c1ccccc1O 10=20;20,21=21",
"COC(=O)CC[S-:10].Cn1cnc(/N=N/[O:21][H:20])n1>>COC(=O)CC[S:10][H:20].Cn1cnc(/N=N/[O-:21])n1 10=20;20,21=21",
"Brc1c([NH2:10])ccc2c1CCCC2.CC(C)C(Br)C(=O)[O:21][H:20]>>Brc1c([NH2+:10][H:20])ccc2c1CCCC2.CC(C)C(Br)C(=O)[O-:21] 10=20;20,21=21",
"CCc1nnn[n-:10]1.c1cc([O:21][H:20])c2cccnc2c1>>CCc1nnn[n:10]1[H:20].c1cc([O-:21])c2cccnc2c1 10=20;20,21=21",
"Cc1nc(N)nc(N)[n+:21]1[H:20].c1ccc(C(c2ccncc2)(c2ccncc2)[O-:10])cc1>>Cc1nc(N)nc(N)[n:21]1.c1ccc(C(c2ccncc2)(c2ccncc2)[O:10][H:20])cc1 10=20;20,21=21",
"COc1ccnc2c1ccc1c(OC)cc[n:10]c12.Nc1cc(/C=C/c2ccccc2)[n+:21]([H:20])c2ccccc12>>COc1ccnc2c1ccc1c(OC)cc[n+:10]([H:20])c12.Nc1cc(/C=C/c2ccccc2)[n:21]c2ccccc12 10=20;20,21=21",
"CC[N+:21](C)(N(C)C)[H:20].Nc1cccc2[nH]c(Cc3ccccc3)[n:10]c12>>CC[N:21](C)N(C)C.Nc1cccc2[nH]c(Cc3ccccc3)[n+:10]([H:20])c12 10=20;20,21=21",
"C(c1ccccc1)=[N+:21](c1ccccc1)[H:20].Cc1cccc(/C=C/C(=O)[O-:10])c1>>C(c1ccccc1)=[N:21]c1ccccc1.Cc1cccc(/C=C/C(=O)[O:10][H:20])c1 10=20;20,21=21",
"CC(C)(C(=O)[O-])[NH+:21](C)[H:20].CCOC(=O)COc1ccc(C(=O)c2ccc([O-])c(C[NH2:10])c2)c(Cl)c1Cl>>CC(C)(C(=O)[O-])[NH:21]C.CCOC(=O)COc1ccc(C(=O)c2ccc([O-])c(C[NH2+:10][H:20])c2)c(Cl)c1Cl 10=20;20,21=21",
"C[C@@H](C(=O)N[C@@H](Cc1c[nH]cn1)C(=O)[O-])[NH2:10].C[NH+](C)CCC[N+:21](=C(c1ccccc1)c1cccc2ccccc12)[H:20]>>C[C@@H](C(=O)N[C@@H](Cc1c[nH]cn1)C(=O)[O-])[NH2+:10][H:20].C[NH+](C)CCC[N:21]=C(c1ccccc1)c1cccc2ccccc12 10=20;20,21=21",
"COc1ccc(F)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:10]2Cc1ccccc1.C[n+]1cccc([O:21][H:20])c1>>COc1ccc(F)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:10]2(Cc1ccccc1)[H:20].C[n+]1cccc([O-:21])c1 10=20;20,21=21",
